US04649146
A solution of ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate (2.35 g) and thioacetamide (1.8 g) in a mixture of 1,2-dimethoxyethane (70 ml) and ethanol (70 ml) was refluxed for 7 hours and the reaction mixture was evaporated in vacuo. To the residue was added water, and the resulting mixture was adjusted to pH 8.0 with 20% aqueous potassium carbonate and extracted with a mixture of ethyl acetate and tetrahydrofuran. The extract was washed with brine, dried over magnesium sulfate, and evaported in vacuo. The residue was washed with diethyl ether and recrystallized from ethyl acetate to give ethyl 2-amino-5-(2-methyl-4-thiazolyl)-4-thiazolecarboxylate (1.4 g). mp 197°-199° C. (dec.)

reactant | ethyl 2-amino-5-(2-bromoacetyl)-4-thiazolecarboxylate | 2.35 g | NC=1SC(=C(N1)C(=O)OCC)C(CBr)=O | C8H9BrN2O3S
reactant | thioacetamide | 1.8 g | C(C)(=S)N | C2H5NS
solvent | 1,2-dimethoxyethane | 70 ml | COCCOC | C4H10O2
solvent | ethanol | 70 ml | C(C)O | C2H6O
product | ethyl 2-amino-5-(2-methyl-4-thiazolyl)-4-thiazolecarboxylate | 1.4 g | NC=1SC(=C(N1)C(=O)OCC)C=1N=C(SC1)C | C10H11N3O2S2
